US07858630B2
Step 3: rac-(4-Isopropoxy-cyclohexyl)-acetic acid methyl ester
Prepared from (4-isopropoxy-cyclohexylidene)-acetic acid methyl ester (0.500 g, 2.36 mmol) by hydrogenation 16 hours at room temperature using Pd/C (10%) (50 mg) in ethylacetate (15 ml). cis/trans mixture. MS (m/e): 215.4 (M+H+).

reactant | (4-isopropoxy-cyclohexylidene)-acetic acid methyl ester | 2.36 mmol, 0.500 g | COC(C=C1CCC(CC1)OC(C)C)=O | C12H20O3
solvent | ethylacetate | 15 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | rac-(4-Isopropoxy-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)OC(C)C)=O | C12H22O3
